US07906645B2
N-[3-Chloro-4-(trifluoromethyl)phenyl]-4-[(1-methylpiperidin-3-yl)methyl]piperazine-1-carboxamide
To a solution of di-tert-butyl dicarbonate (114.6 mg) in chloroform (2 ml) was added 4-dimethylaminopyridine (6 mg). A solution of 4-amino-2-chlorobenzotrifluoride (98.1 mg) in chloroform (2 ml) was added and the reaction mixture stirred for 20 minutes at room temperature. A solution of 1-[(1-methylpiperidin-3-yl)methyl]piperazine (98.5 mg) in chloroform (2 ml) was added and the resulting solution was stirred at reflux for 18 hours. The reaction mixture was purified by column chromatography on silica gel (20 g) using a gradient of 100% dichloromethane through to 20% methanolic ammonia in dichloromethane to give the title compound (14 mg).

reactant | di-tert-butyl dicarbonate | 114.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-2-chlorobenzotrifluoride | 98.1 mg | NC1=CC(=C(C=C1)C(F)(F)F)Cl | C7H5ClF3N
reactant | 1-[(1-methylpiperidin-3-yl)methyl]piperazine | 98.5 mg | CN1CC(CCC1)CN1CCNCC1 | C11H23N3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-Chloro-4-(trifluoromethyl)phenyl]-4-[(1-methylpiperidin-3-yl)methyl]piperazine-1-carboxamide | 14 mg | ClC=1C=C(C=CC1C(F)(F)F)NC(=O)N1CCN(CC1)CC1CN(CCC1)C | C19H26ClF3N4O
